US04340765
Methyl (E)-4(3-hydroxyphenoxy)-2-methyl-2-buten-1-oate
A mixture of 1.00 g of (E)-4(3-hydroxyphenoxy)-2-methyl-2-buten-1-al, 7.31 g active manganese dioxide, 1.26 g sodium cyanide and 0.4 g glacial acetic acid in 40 ml methanol is stirred at room temperature for about 16 hours, filtered and the filtrate evaporated to dryness using an aspirator and a concentrated aqueous sodium hydroxide trap. During the volume reduction, the filtrate is stirred in a water bath at about 35° C. The red oil residue is treated with 50 ml diethylether and 50 ml distilled water and the mixture stirred vigorously for about one hour. The phases are separated and the water layer is washed with 50 ml diethylether. The organic layers are combined and washed with two 150 ml portions of distilled water. The ether layer is dried over anhydrous magnesium sulfate, treated with activated charcoal and filtered. The filtrate is evaporated to dryness to yield 0.68 g light yellow oil which crystallizes on standing which is taken up in 40 ml diethylether and heated under a stream of nitrogen as 15 ml hexanes is slowly added. When the volume reaches 25 ml, it is treated with activated charcoal and filtered. The filtrate is reduced in volume to 200 ml, allowed to cool to room temperature and is placed in a freezer. Bright yellow solid forms and is collected by nitrogen pressure filtration and is dried under a stream of nitrogen yielding 0.27 g product, m.p. 79°-81° C. Elemental Analysis. Calculated: C,64.85; H,6.35. Found: C,64.74; H,6.37.

reactant | (E)-4(3-hydroxyphenoxy)-2-methyl-2-buten-1-al | 1.00 g | OC=1C=C(OC/C=C(/C=O)\C)C=CC1 | C11H12O3
reactant | sodium cyanide | 1.26 g | [C-]#N.[Na+]
reactant | acetic acid | 0.4 g | C(C)(=O)O | C2H4O2
solvent | methanol | 40 ml | CO | CH4O
catalyst | manganese dioxide | 7.31 g | [O-2].[O-2].[Mn+4]
product | Methyl (E)-4(3-hydroxyphenoxy)-2-methyl-2-buten-1-oate | OC=1C=C(OC/C=C(/C(=O)OC)\C)C=CC1 | C12H14O4
